US06514971B1
The starting material, 4-chloro-6,7-dimethoxycinnoline hydrochloride was obtained by heating a solution of 4-hydroxy-6,7-dimethoxycinnoline (1 g, 4.8 mmol) in thionyl chloride (20 ml) containing DMF (2drops) at reflux for 3 hours. After cooling and evaporating the excess thionyl chloride, the solid was triturated with ether and filtered to give 4-chloro-6,7-dimethoxycinnoline hydrochloride (1.2 g, quantitative).

reactant | 4-hydroxy-6,7-dimethoxycinnoline | 4.8 mmol, 1 g | OC1=CN=NC2=CC(=C(C=C12)OC)OC | C10H10N2O3
reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | DMF | 2drops | CN(C)C=O | C3H7NO
product | 4-chloro-6,7-dimethoxycinnoline hydrochloride | 1.2 g | Cl.ClC1=CN=NC2=CC(=C(C=C12)OC)OC | InChI=1S/C10H9ClN2O2.ClH/c1-14-9-3-6-7(11)5-12-13-8(6)4-10(9)15-2;/h3-5H,1-2H3;1H
